US08455638B2
Step C. Ethyl 4-[4-(trifluoromethyl)cyclohex-1-en-1-yl]benzoate
To a cooled (−78° C.) solution of 4-trifluoromethyl cyclohexanone (3.00 grams, 18.1 mmol) in anhydrous THF (100 mL) was added lithium bis(trimethylsilyl)amide (19.9 mL, 1.0 M in THF, 19.9 mmol) dropwise. After 10 min, a solution of 2-[N,N-bis(trifluoromethylsulfonyl)amino]5-chloropyridine (7.09 g, 18.1 mmol) in THF (20 mL) was added, and the resulting mixture was allowed to warm slowly to ambient temperature overnight, at which point it was quenched by pouring into sat. aq. NaHCO3. The mixture was extracted with EtOAc. The organic phase was separated, dried over anhydrous sodium sulfate, and concentrated in vacuo. The resulting enol triflate was used without further purification. To a flask containing the unpurified enol triflate were added 4-ethoxycarbonylphenylboronic acid (3.68 g, 18.69 mmol) and trans-dichlorobis(triphenylphosphine) palladium (II) (633 mg, 0.903 mmol). Acetonitrile (90 mL) and sodium carbonate (45 mL, 1.0 M aqueous, 45.0 mmol) were added, and the resulting mixture was degassed via nitrogen sparge. The reaction mixture was stirred at 70° C. for 1.5 h, then was allowed to cool to room temperature and was poured into water. The mixture was extracted with EtOAc, and the organic phase was concentrated in vacuo. Purification by chromatography on silica gel (0 to 10% EtOAc in hexanes, then 10 to 100% EtOAc) provided the title compound: LCMS m/z 299.5 [M+H]+; 1H NMR (500 MHz, CDCl3) δ 7.99 (d, J=8.5 Hz, 2H), 7.42 (d, J=8.5 Hz, 2H), 6.20-6.18 (m, 1H), 4.37 (q, J=7.0 Hz, 2 H), 2.61-2.18 (m, 6H), 1.74-1.68 (m, 1H), 1.39 (t, J=7.0 Hz, 3H).

reactant | 4-trifluoromethyl cyclohexanone | 18.1 mmol, 3.00 grams | FC(C1CCC(CC1)=O)(F)F | C7H9F3O
reactant | lithium bis(trimethylsilyl)amide | 19.9 mmol, 1.0 M, 19.9 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | 2-[N,N-bis(trifluoromethylsulfonyl)amino]5-chloropyridine | 18.1 mmol, 7.09 g | FC(S(=O)(=O)N(S(=O)(=O)C(F)(F)F)C1=NC=C(C=C1)Cl)(F)F | C7H3ClF6N2O4S2
reactant | 4-ethoxycarbonylphenylboronic acid | 18.69 mmol, 3.68 g | C(C)OC(=O)C1=CC=C(C=C1)B(O)O | C9H11BO4
reactant | sodium carbonate | 45.0 mmol, 1.0 M, 45 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | Acetonitrile | 90 mL | C(C)#N | C2H3N
product | Ethyl 4-[4-(trifluoromethyl)cyclohex-1-en-1-yl]benzoate | FC(C1CC=C(CC1)C1=CC=C(C(=O)OCC)C=C1)(F)F | C16H17F3O2
